US07968570B2
2-[3-(2,4-Difluoro-phenyl)-prop-2-ynyl]-2,3-dihydro-isoindol-1-one
2-Prop-2-ynyl-2,3-dihydro-isoindol-1-one (50.0 mg, 0.29 mmol) was dissolved in triethylamine (2 mL). To this was added Pd(PPh3)4 (13 mg, 0.012 mmol), CuI (6.7 mg, 0.035 mmol) and 2,4-difluoro-1-iodo-benzene (52.0 μL, 0.438 mmol) and the reaction was allowed to stir overnight. The solvent was evaporated and the residue was purified by prep. TLC (30% EtOAc/Hexanes) to afford the title compound (20.0 mg, 24%) as a brown oil. 1H NMR (300 MHz, CDCl3): δ 7.90 (d, 1H), 7.45 (m, 4H), 6.84 (t, 2H), 4.72 (s, 2H), 4.59 (s, 2H).

reactant | 2-Prop-2-ynyl-2,3-dihydro-isoindol-1-one | 0.29 mmol, 50.0 mg | C(C#C)N1C(C2=CC=CC=C2C1)=O | C11H9NO
reactant | 2,4-difluoro-1-iodo-benzene | 0.438 mmol, 52.0 μL | FC1=C(C=CC(=C1)F)I | C6H3F2I
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
catalyst | Pd(PPh3)4 | 0.012 mmol, 13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.035 mmol, 6.7 mg | [Cu]I
product | 2-[3-(2,4-Difluoro-phenyl)-prop-2-ynyl]-2,3-dihydro-isoindol-1-one | 20.0 mg, 24% | FC1=C(C=CC(=C1)F)C#CCN1C(C2=CC=CC=C2C1)=O | C17H11F2NO
